US06610701B2
Step C: 5-(Azidomethyl)-benzimidazole
To a cooled (0° C.) suspension of 5-(hydroxymethyl)-benzimidazole (920 mg, 6.2 mmol) in THF (12 mL) was added sequentially DPPA (1.46 mL, 6.8 mmol) and DBU (1.11 mL, 7.4 mmol). The resulting solution was heated to reflux for 5 h, cooled to RT, and concentrated in vacuo. The residue was partitioned between sodium bicarbonate and ethyl acetate. The organic layer was washed with brine, dried (Na2SO4), and concentrated in vacuo. Silica gel chromatography (15% MeOH—CHCl3), afforded the title compound as a brown solid: Rf (8:1:1 EtOAc-MeOH—NH4H)=0.31; m.p. 110-114° C.; 1H NMR (400 MHz, DMSO-d6): δ8.25 (s, 1H), 7.27 (d, J=8.4, 1H), 7.62-7.60 (m, 2H), 7.20 (d, J=8.2 Hz, 1H), 8.24 (s, 1H); HRMS (FAB) C8H8N5 calcd. 174.1847 (M+1). Found 174.1222.

reactant | 5-(hydroxymethyl)-benzimidazole | 6.2 mmol, 920 mg | OCC1=CC2=C(N=CN2)C=C1 | C8H8N2O
reactant | DPPA | 6.8 mmol, 1.46 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | DBU | 7.4 mmol, 1.11 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 5-(Azidomethyl)-benzimidazole | N(=[N+]=[N-])CC1=CC2=C(N=CN2)C=C1 | C8H7N5
